US09289419B2
Step-5: Synthesis of (R)-2-(2,5-difluorophenyl)pyrrolidine hydrochloride
4M HCl solution (in Dioxane) (75 mL) was added to stirred solution of (R)-1-((S)-tert-butylsulfinyl)-2-(2,5-difluorophenyl)pyrrolidine (15 g, 52.19 mmol) in Dioxane (25 mL) and stirring was continued at 20-35° C. for 4 h. After which the reaction mixture was concentrated under reduced pressure to afford the crude product. The crude product was purified by washing with diethyl ether to afford 7.5 g of the title compound as a white solid.

reactant | HCl | 4M, 75 mL | Cl | ClH
reactant | (R)-1-((S)-tert-butylsulfinyl)-2-(2,5-difluorophenyl)pyrrolidine | 52.19 mmol, 15 g | C(C)(C)(C)[S@](=O)N1[C@H](CCC1)C1=C(C=CC(=C1)F)F | C14H19F2NOS
solvent | Dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (R)-2-(2,5-difluorophenyl)pyrrolidine hydrochloride | 7.5 g | Cl.FC1=C(C=C(C=C1)F)[C@@H]1NCCC1 | InChI=1S/C10H11F2N.ClH/c11-7-3-4-9(12)8(6-7)10-2-1-5-13-10;/h3-4,6,10,13H,1-2,5H2;1H/t10-;/m1./s1
